US04156690
2-Cyclohexylidene Heptanonitrile
Into a 25 ml. flask, equipped with magnetic stirrer, heating mantle, condensor, calcium sulfate drying tube, constant temperature controller and thermometer, was charged 0.98 g. of cyclohexanone (0.01 M), 11.1 g. of heptanonitrile (0.10 M) and 0.66 g. of 85% potassium hydroxide flakes. The mixture was heated cooled, 30 ml. of hexane was added, and the mixture washed six times with 30 ml. portions of water and once with saturated brine. The washes were each in succession, cross-extracted with two 15 ml. portions of hexane. The combined organic and hexane phases were dried over anhydrous sodium sulfate and solvent evaporated on a rotary evaporator at ~30 mm. Hg to give 6.7 g. of oil. Gas chromatographic analysis (6' × 1/4" column, 20% Carbowax 20 m. on Chromasorb W, programmed 135° C. to 220° C. at 4°/minute, He flow ~60 ml./minute) showed product nitrile peaks at 17.8 minutes (10.3%) and 20.1 minutes (4.1%) with heptanonitrile at 4.3 minutes (85.5%). The product peaks which eluted together at 17.6 minutes on a 20% SE30 column (6' × 1/4") under the same operating parameters were trapped out for odor evaluation. An IR spectrum on the trapping of combined isomers showed a nitrile band at 4.5 microns and an olefin band at 6.27 microns. The product was described by perfumers as having an interesting, fruity, floral, salicylate quality.

reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | cyclohexanone | 0.01 M | C1(CCCCC1)=O | C6H10O
reactant | heptanonitrile | 0.10 M | C(CCCCCC)#N | C7H13N
reactant | potassium hydroxide | [OH-].[K+]
solvent | Carbowax 20 | C(CO)O | C2H6O2
solvent | hexane | CCCCCC | C6H14
product | 2-Cyclohexylidene Heptanonitrile | C1(CCCCC1)=C(C#N)CCCCC | C13H21N
